US04314061
3,6-bis(4-chlorobutoxy)acridine hydrochloride
To a mixture of 11.8 g. of sodium hydride (61.1% dispersion in oil) and 26.0 g. of 3,6-acridinediol is added 250 ml. of dimethylformamide. The mixture is stirred at room temperature for 1.5 hours, then 52.5 g. of 4-chlorobutyl-p-toluenesulfonate are added. This mixture is stirred at room temperature for 3 hours and 20 minutes and then at 50° C. for 2 hours. The volatile materials are removed under reduced pressure at 35°-40° C. The residue is quenched with 1200 ml. of ice-cold saturated aqueous sodium bicarbonate. The resulting tan crystals are collected and dissolved in 500 ml. of chloroform, 30 ml. of 6 N hydrochloric acid in isopropanol are added and the mixture is diluted with ether, giving the desired product as the hydrochloride salt.

reactant | sodium hydride | [H-].[Na+]
reactant | 3,6-acridinediol | C1=CC(=CC2=NC3=CC(=CC=C3C=C12)O)O | C13H9NO2
reactant | 4-chlorobutyl-p-toluenesulfonate | ClCCCCOS(=O)(=O)C1=CC=C(C=C1)C | C11H15ClO3S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3,6-bis(4-chlorobutoxy)acridine hydrochloride | Cl.ClCCCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCCCl | InChI=1S/C21H23Cl2NO2.ClH/c22-9-1-3-11-25-18-7-5-16-13-17-6-8-19(26-12-4-2-10-23)15-21(17)24-20(16)14-18;/h5-8,13-15H,1-4,9-12H2;1H
